US06812237B2
To a solution of (S)-2-t-butoxycarbonylamino-3-[3-(2-cyanoethylaminocarbonyl)-benzyloxy]-propionitrile (3.8 g, 10.2 mmol) and triphenylphosphine (6.7 g, 25.5 mmol) in acetonitrile (75 mL) at 0° C. is added diisopropyl azodicarboxylate (5.0 mL, 25.5 mmol) and trimethylsilyl azide (3.73 mL, 28.1 mmol) dropwise, simultaneously, via syringe. The solution is then stirred at room temp. for 0.5 h, and then heated to 30° C. overnight. After solvent evaporation, the residue is taken up in EtOAc (150 mL), and then poured onto an ice—sat'd NaHCO3 mixture (150 mL), and extracted. The organic phase is washed with brine (100 mL), dried (MgSO4), evaporated and chromatographed (silica, 65% EtOAc/hexane) to yield (S)-2-t-butoxycarbonylamino-3-{3-[1-(2-cyanoethyl)-5-tetrazolyl]-benzyloxy}-propionitrile, as a light yellow oil.

reactant | (S)-2-t-butoxycarbonylamino-3-[3-(2-cyanoethylaminocarbonyl)-benzyloxy]-propionitrile | 10.2 mmol, 3.8 g | C(C)(C)(C)OC(=O)N[C@@H](C#N)COCC1=CC(=CC=C1)C(=O)NCCC#N | C19H24N4O4
reactant | triphenylphosphine | 25.5 mmol, 6.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 25.5 mmol, 5.0 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | trimethylsilyl azide | 28.1 mmol, 3.73 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | (S)-2-t-butoxycarbonylamino-3-{3-[1-(2-cyanoethyl)-5-tetrazolyl]-benzyloxy}-propionitrile | C(C)(C)(C)OC(=O)N[C@@H](C#N)COCC1=CC(=CC=C1)C1=NN=NN1CCC#N | C19H23N7O3
